US08609653B2
To a solution of 1-(2,3-difluorobenzyl)pyrrolidin-2-one (17.05 mL, 89 mmol) in 1,2-dichloroethane (DCE) (240 mL) under nitrogen atmosphere was added dropwise in 15 min POCl3 (12.39 mL, 133 mmol) and the mixture was stirred at ambient temperature for 1 h. Then diethyl 2-(1-aminoethylidene)malonate (19.62 g, 97 mmol) was added and the mixture was heated to 40° C. under nitrogen atmosphere for 22 h. Saturated NaHCO3/water was carefully added (400 mL) and the mixture was stirred at ambient temperature for 1 h then extracted with dichloromethane. The aqueous phase was extracted with dichloromethane and the combined organic phase was washed brine, dried (Na2SO4), concentrated, dried in vacuo to provide (E)-diethyl 2-(1-((1-(2,3-difluorobenzyl)pyrrolidin-2-ylidene)amino)ethylidene)malonate (36.48 g, 70.3 mmol, 79% yield) as a yellow oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.07-1.36 (m, 6 H), 1.88-2.10 (m, 2 H), 2.18-2.27 (m, 3 H), 2.35-2.61 (m, 2 H), 3.13-3.43 (m, 2 H), 3.98-4.30 (m, 4 H), 4.45-4.64 (m, 2 H), 6.94-7.20 (m, 3 H); LCMS (m/z) ES+=395 (M+1).

reactant | 1-(2,3-difluorobenzyl)pyrrolidin-2-one | 89 mmol, 17.05 mL | FC1=C(CN2C(CCC2)=O)C=CC=C1F | C11H11F2NO
reactant | POCl3 | 133 mmol, 12.39 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | diethyl 2-(1-aminoethylidene)malonate | 97 mmol, 19.62 g | NC(C)=C(C(=O)OCC)C(=O)OCC | C9H15NO4
reactant | NaHCO3 water | C(=O)(O)[O-].[Na+].O
solvent | 1,2-dichloroethane | 240 mL | ClCCCl | C2H4Cl2
product | (E)-diethyl 2-(1-((1-(2,3-difluorobenzyl)pyrrolidin-2-ylidene)amino)ethylidene)malonate | 70.3 mmol, 36.48 g, 79% yield | FC1=C(CN2\C(\CCC2)=N\C(C)=C(C(=O)OCC)C(=O)OCC)C=CC=C1F | C20H24F2N2O4
